Title: LM193 / V_os, I_os, I_ib (A)
*********************************************************

*Input Voltage Source
*********************
VCC 1 0 DC {Vcc}V
*VOUT 4 0 DC 1.4V
Vin1 2 0 DC 2.5V
Vin2 3 0 DC 2.5V

*Pull-Up Resistor
*****************
R2 4 1 10000


*Schematic name: LM193 core
***************************
*Subcircuit
*X1 {21 22 23 24} = {V_CC VIN+ VIN- V_OUT}
* X1 1 2 3 4 LM193_sc
* Below logic for V0 subckt
X1 1 0 2 3 4 LM193_sc

*VVCC 5 1 0	Removed in revision -EG
*VIN1 2 0 0	Removed in revision -EG
*VIN2 3 0 0	Removed in revision -EG

*Input
******
*.DC LIN VIN1 2.499 2.501 0.00001
.DC LIN VIN1 2.499 2.505 0.00001


*Output
*******
.print dc format=noindex file={output_filename}
+ V(2)
+ V(4)
+ I(Vin1)
+ I(Vin2)
